US08106070B2
Palladium tetrakis(triphenylphosphine) (213 mg, 0.18 mmol) was added to a degassed, ambient temperature solution of ethyl 2-(4-bromobenzyl)-5-oxopyrrolidine-2-carboxylate (600 mg, 1.84 mmol), 2-bromo-5-fluoropyridine (324 mg, 1.84 mmol) and hexamethylditin (603 mg, 1.84 mmol) in 1,4-dioxane (8 mL). After stirring at reflux overnight, the reaction mixture was cooled and cesium fluoride (50% on celite) was added. After stirring vigorously for 1 h, the reaction mixture was filtered and concentrated in vacuo. Chromatography over silica eluting with 40-100% ethyl acetate/hexane afforded ethyl 2-[4-(5-fluoropyridin-2-yl)benzyl]-5-oxopyrrolidine-2-carboxylate.

reactant | ethyl 2-(4-bromobenzyl)-5-oxopyrrolidine-2-carboxylate | 1.84 mmol, 600 mg | BrC1=CC=C(CC2(NC(CC2)=O)C(=O)OCC)C=C1 | C14H16BrNO3
reactant | 2-bromo-5-fluoropyridine | 1.84 mmol, 324 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | hexamethylditin | 1.84 mmol, 603 mg | C[Sn](C)C.C[Sn](C)C
reactant | cesium fluoride | [F-].[Cs+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Palladium tetrakis(triphenylphosphine) | 0.18 mmol, 213 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | ethyl 2-[4-(5-fluoropyridin-2-yl)benzyl]-5-oxopyrrolidine-2-carboxylate | FC=1C=CC(=NC1)C1=CC=C(CC2(NC(CC2)=O)C(=O)OCC)C=C1 | C19H19FN2O3
